US07125876B2
Ethyl (2S)-2-(2-chloroacetylamino)-2-(4-fluorophenyl)acetate (400 mg, 1.46 mmol), (2S)-3-(2-methylbenzothiazol-5-yloxy)-1-piperazinylpropan-2-ol (560 mg, 1.46 mmol), and 1.26 ml diisopropylethylamine (7.3 mmol) was refluxed in ethanol for 24 hours. Solvent was removed under reduced pressure, and the residue purified by Prep TLC, to provide ethyl (2S)-2-(2-{4-[(2S)-2-hydroxy-3-(2-methylbenzothiazol -5-yloxy)propyl]piperazinyl}acetylamino)-2-(4-fluorophenyl)acetate.

reactant | Ethyl (2S)-2-(2-chloroacetylamino)-2-(4-fluorophenyl)acetate | 1.46 mmol, 400 mg | ClCC(=O)N[C@H](C(=O)OCC)C1=CC=C(C=C1)F | C12H13ClFNO3
reactant | (2S)-3-(2-methylbenzothiazol-5-yloxy)-1-piperazinylpropan-2-ol | 1.46 mmol, 560 mg | CC=1SC2=C(N1)C=C(C=C2)OC[C@H](CN2CCNCC2)O | C15H21N3O2S
reactant | diisopropylethylamine | 7.3 mmol, 1.26 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | C(C)O | C2H6O
product | ethyl (2S)-2-(2-{4-[(2S)-2-hydroxy-3-(2-methylbenzothiazol -5-yloxy)propyl]piperazinyl}acetylamino)-2-(4-fluorophenyl)acetate | O[C@@H](CN1CCN(CC1)CC(=O)N[C@H](C(=O)OCC)C1=CC=C(C=C1)F)COC=1C=CC2=C(N=C(S2)C)C1 | C27H33FN4O5S
